US05932747
Diethyl 1,5-dioxaspiro[5.5]undecane-3,3-dicarboxylate
A suspension, stirred at room temperature, of 148.4 g of trimethyl orthoformate (1.4 mol) and 63.0 g of paraformaldehyde (2.1 mol) was admixed with 10.0 g of ethanol and 0.25 g of sodium ethanolate. The mixture was then heated to 50° C., and 160.2 g of diethyl malonate (1.0 mol) were added gradually over a period of 1.75 hours. At first, the reaction mixture thus obtained was stirred for a further 2 hours at 50° C., followed by cooling to room temperature. With stirring, 0.37 g of sulfuric acid and 1.0 g of sodium hydrogen sulfate were added, after which the temperature was initially, for a further 2 hours, regulated to 50° C. In the course of subsequent heating to 80° C., 72.3 g of low-boiling components were taken off, and 98.0 g of cyclohexanone (1.0 mol) were then gradually added over a period of 1.75 hours, a further 74.4 g of low-boiling components distilling over. Subsequent fractional distillation without using a column gave 246.2 g of colorless target product (78.3% of the theoretical yield, based on diethyl malonate used) with a purity, determined by gas chromatography, of 95.4 FID percent by area.

reactant | trimethyl orthoformate | 1.4 mol, 148.4 g | C(OC)(OC)OC | C4H10O3
reactant | paraformaldehyde | 2.1 mol, 63.0 g | C=O | CH2O
reactant | diethyl malonate | 1.0 mol, 160.2 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | cyclohexanone | 1.0 mol, 98.0 g | C1(CCCCC1)=O | C6H10O
catalyst | sodium ethanolate | 0.25 g | C(C)[O-].[Na+]
catalyst | sulfuric acid | 0.37 g | S(O)(O)(=O)=O | H2O4S
catalyst | sodium hydrogen sulfate | 1.0 g | S(=O)(=O)(O)[O-].[Na+]
solvent | ethanol | 10.0 g | C(C)O | C2H6O
product | Diethyl 1,5-dioxaspiro[5.5]undecane-3,3-dicarboxylate | 246.2 g | O1CC(COC12CCCCC2)(C(=O)OCC)C(=O)OCC | C15H24O6
